* Subcircuit 5bit_DACa
.subckt 5bit_DACa /vrefh /vrefl /d0 /d1 /d2 /d3 /d4 /vdd /vout 
* c:\fossee\esim\library\subcircuitlibrary\5bit_daca\5bit_daca.cir
.include switch.sub
r1  /vrefh net-_r1-pad2_ resistor
r2  net-_r1-pad2_ net-_r2-pad2_ resistor
r3  net-_r2-pad2_ net-_r3-pad2_ resistor
r4  net-_r3-pad2_ net-_r4-pad2_ resistor
r5  net-_r4-pad2_ net-_r5-pad2_ resistor
r6  net-_r5-pad2_ net-_r6-pad2_ resistor
r7  net-_r6-pad2_ net-_r7-pad2_ resistor
r8  net-_r7-pad2_ net-_r8-pad2_ resistor
r9  net-_r8-pad2_ net-_r10-pad1_ resistor
r10  net-_r10-pad1_ net-_r10-pad2_ resistor
r11  net-_r10-pad2_ net-_r11-pad2_ resistor
r12  net-_r11-pad2_ net-_r12-pad2_ resistor
r13  net-_r12-pad2_ net-_r13-pad2_ resistor
r14  net-_r13-pad2_ net-_r14-pad2_ resistor
r15  net-_r14-pad2_ net-_r15-pad2_ resistor
r16  net-_r15-pad2_ net-_r16-pad2_ resistor
r32  /vrefl net-_r31-pad1_ resistor
r31  net-_r31-pad1_ net-_r30-pad1_ resistor
r30  net-_r30-pad1_ net-_r29-pad1_ resistor
r29  net-_r29-pad1_ net-_r28-pad1_ resistor
r28  net-_r28-pad1_ net-_r27-pad1_ resistor
r27  net-_r27-pad1_ net-_r26-pad1_ resistor
r26  net-_r26-pad1_ net-_r25-pad1_ resistor
r25  net-_r25-pad1_ net-_r24-pad1_ resistor
r24  net-_r24-pad1_ net-_r23-pad1_ resistor
r23  net-_r23-pad1_ net-_r22-pad1_ resistor
r22  net-_r22-pad1_ net-_r21-pad1_ resistor
r21  net-_r21-pad1_ net-_r20-pad1_ resistor
r20  net-_r20-pad1_ net-_r19-pad1_ resistor
r19  net-_r19-pad1_ net-_r18-pad1_ resistor
r18  net-_r18-pad1_ net-_r17-pad1_ resistor
r17  net-_r17-pad1_ net-_r16-pad2_ resistor
x1 /d0 /vdd net-_r1-pad2_ net-_r2-pad2_ net-_x1-pad5_ switch
x2 /d0 /vdd net-_r3-pad2_ net-_r4-pad2_ net-_x11-pad4_ switch
x3 /d0 /vdd net-_r5-pad2_ net-_r6-pad2_ net-_x12-pad3_ switch
x4 /d0 /vdd net-_r7-pad2_ net-_r8-pad2_ net-_x12-pad4_ switch
x5 /d0 /vdd net-_r10-pad1_ net-_r10-pad2_ net-_x13-pad3_ switch
x6 /d0 /vdd net-_r11-pad2_ net-_r12-pad2_ net-_x13-pad4_ switch
x7 /d0 /vdd net-_r13-pad2_ net-_r14-pad2_ net-_x14-pad3_ switch
x8 /d0 /vdd net-_r15-pad2_ net-_r16-pad2_ net-_x14-pad4_ switch
x9 /d0 /vdd net-_r17-pad1_ net-_r18-pad1_ net-_x15-pad3_ switch
x10 /d0 /vdd net-_r19-pad1_ net-_r20-pad1_ net-_x10-pad5_ switch
x110 /d0 /vdd net-_r21-pad1_ net-_r22-pad1_ net-_x110-pad5_ switch
x120 /d0 /vdd net-_r23-pad1_ net-_r24-pad1_ net-_x120-pad5_ switch
x130 /d0 /vdd net-_r25-pad1_ net-_r26-pad1_ net-_x130-pad5_ switch
x140 /d0 /vdd net-_r27-pad1_ net-_r28-pad1_ net-_x140-pad5_ switch
x150 /d0 /vdd net-_r29-pad1_ net-_r30-pad1_ net-_x150-pad5_ switch
x160 /d0 /vdd net-_r31-pad1_ /vrefl net-_x160-pad5_ switch
x11 /d1 /vdd net-_x1-pad5_ net-_x11-pad4_ net-_x11-pad5_ switch
x12 /d1 /vdd net-_x12-pad3_ net-_x12-pad4_ net-_x12-pad5_ switch
x13 /d1 /vdd net-_x13-pad3_ net-_x13-pad4_ net-_x13-pad5_ switch
x14 /d1 /vdd net-_x14-pad3_ net-_x14-pad4_ net-_x14-pad5_ switch
x15 /d1 /vdd net-_x15-pad3_ net-_x10-pad5_ net-_x15-pad5_ switch
x16 /d1 /vdd net-_x110-pad5_ net-_x120-pad5_ net-_x16-pad5_ switch
x17 /d1 /vdd net-_x130-pad5_ net-_x140-pad5_ net-_x17-pad5_ switch
x18 /d1 /vdd net-_x150-pad5_ net-_x160-pad5_ net-_x18-pad5_ switch
x21 /d2 /vdd net-_x11-pad5_ net-_x12-pad5_ net-_x21-pad5_ switch
x24 /d2 /vdd net-_x17-pad5_ net-_x18-pad5_ net-_x24-pad5_ switch
x22 /d2 /vdd net-_x13-pad5_ net-_x14-pad5_ net-_x22-pad5_ switch
x23 /d2 /vdd net-_x15-pad5_ net-_x16-pad5_ net-_x23-pad5_ switch
x31 /d3 /vdd net-_x21-pad5_ net-_x22-pad5_ net-_x31-pad5_ switch
x32 /d3 /vdd net-_x23-pad5_ net-_x24-pad5_ net-_x32-pad5_ switch
x41 /d4 /vdd net-_x31-pad5_ net-_x32-pad5_ /vout switch
* Control Statements

.ends 5bit_DACa